US08242260B2
A solution of (S)-tert-butyl 1-(4-(4-(2-chloro-3-(propylsulfonamido)phenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (116 mg, 0.14 mmol) in EtOH (2 mL) was treated with aqueous 6.0 N HCl solution (0.8 mL, 4.8 mmol) and the resulting reaction was heated to 60° C. for 30 minutes, then at room temperature for 40 minutes. The reaction was allowed to cool to room temperature and the volatiles were removed in vacuo. Further drying under high vacuum afforded (S)—N-(3-(5-(2-(2-aminopropylamino)pyrimidin-4-yl)-2-cyclopropyl-1H-imidazol-4-yl)-2-chlorophenyl)propane-1-sulfonamide (80 mg, 0.15 mmol) as the HCl salt (4A-2) which was used without further purification: LCMS(m/z) 490.2 (MH+), tR=0.48 minute. To a mixture of (S)—N-(3-(5-(2-(2-aminopropylamino)pyrimidin-4-yl)-2-cyclopropyl-1H-imidazol-4-yl)-2-chlorophenyl)propane-1-sulfonamide in THF-water (1:1, 2 mL) at 0° C. was added solid NaHCO3 (137 mg, 1.6 mmol) and the resulting mixture was stirred for 5 minutes. Methyl chloroformate (14 μL, 0.18 mmol) was added and the reaction mixture was stirred at 0° C. for 15 minutes. The reaction was diluted with water and extracted with EtOAc (2×). The combined organic portions were washed with water, brine, dried (Na2SO4), and concentrated. The resulting residue was dissolved in DMSO and purified by reverse phase HPLC. Product fractions were combined and lypholized to give (S)-methyl 1-(4-(4-(2-chloro-3-(propylsulfonamido)phenyl)-2-cyclopropyl-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate (19.9 mg) as the TFA salt (4A-3): LCMS(m/z) 548.0 (MH+), tR=0.61 minute, 1H NMR (400 MHz, CD3OD) δ 1.04 (t, J=7.4 Hz, 3H) 1.14 (d, J=6.6 Hz, 3H) 1.27 (t, J=4.5 Hz, 2H) 1.34-1.44 (m, 2H) 1.80-1.95 (m, 2H) 3.14-3.21 (m, 2H) 3.67 (br s, 3H) 3.97 (br s, 1H) 6.40 (br s, 1H) 7.45 (d, 7.0 Hz, 1H) 7.54 (m, 1H) 7.84 (d, J=7.4 Hz, 1H) 8.13 (d, J=5.1 Hz, 1H).

reactant | (S)-tert-butyl 1-(4-(4-(2-chloro-3-(propylsulfonamido)phenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propan-2-ylcarbamate | 0.14 mmol, 116 mg | ClC1=C(C=CC=C1NS(=O)(=O)CCC)C=1N=C(N(C1C1=NC(=NC=C1)NC[C@H](C)NC(OC(C)(C)C)=O)COCC[Si](C)(C)C)C1CC1 | C33H50ClN7O5SSi
reactant | HCl | 4.8 mmol, 6.0 N, 0.8 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)—N-(3-(5-(2-(2-aminopropylamino)pyrimidin-4-yl)-2-cyclopropyl-1H-imidazol-4-yl)-2-chlorophenyl)propane-1-sulfonamide | 0.15 mmol, 80 mg | N[C@H](CNC1=NC=CC(=N1)C1=C(N=C(N1)C1CC1)C=1C(=C(C=CC1)NS(=O)(=O)CCC)Cl)C | C22H28ClN7O2S
